US05162533
3-Cyano-2-(3-diethylamino-1-propylamino)-5,4'-bipyridine-1'-oxide
A mixture of 1 g 2-chloro-3-cyano-5,4'-bipyridine-1'-oxide and 1.35 g diethylamino-1-propylamine in 50 ml ethanol is refluxed for 4 hours. Subsequently, the mixture is concentrated under vacuum and the oil remaining behind is crystallized first from ethanol/diethyl ether and subsequently from methanol. Yield: 1.3 g (90.9% of the theoretical yield), with a melting point of 132° C.-133° C.

reactant | 2-chloro-3-cyano-5,4'-bipyridine-1'-oxide | 1 g | ClC1=NC=C(C=C1C#N)C1=CC=[N+](C=C1)[O-] | C11H6ClN3O
reactant | diethylamino-1-propylamine | 1.35 g | C(C)N(CC)NCCC | C7H18N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-Cyano-2-(3-diethylamino-1-propylamino)-5,4'-bipyridine-1'-oxide | C(#N)C=1C(=NC=C(C1)C1=CC=[N+](C=C1)[O-])NCCCN(CC)CC | C18H23N5O
